US04382951
(a) 6,6-Dimethyl-2,4-heptadienal
Freshly distilled 4-methoxy-but-3-en-1-yne is added dropwise under cooling to a solution of t-butyl-magnesium bromide in absolute tetrahydrofuran and the mixture stirred for 45 minutes at room temperature. The reaction mixture is first mixed with 13.6 g of ethanol, then, under cooling and inert gas atmosphere, reacted with 5.9 g of LiAlH4 and stirred overnight at room temperature. It is then mixed with saturated aqueous NH4Cl under cooling, acidified with H2SO4 and extracted with ether. The pure product is obtained by vacuum distillation b.p. (bulb tube) 50°/0.26 mbar.

reactant | 4-methoxy-but-3-en-1-yne | COC=CC#C | C5H6O
reactant | t-butyl-magnesium bromide | C(C)(C)(C)[Mg]Br
reactant | LiAlH4 | 5.9 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | NH4Cl | [NH4+].[Cl-]
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethanol | 13.6 g | C(C)O | C2H6O
product | 6,6-Dimethyl-2,4-heptadienal | CC(C=CC=CC=O)(C)C | C9H14O
